US09238631B2
a) tert-Butyl (2S)-2-[(tert-butoxycarbonyl)amino]-4-oxobutanoate
To a solution of 1.10 g (4.0 mmol) tert-butyl N-(tert-butoxycarbonyl)-L-homoserinate (prepared according to J. Org. Chem. 1988, 53, 1900-1903) in dichloromethane (50 mL) was added pyridine (0.97 mL, 12.0 mmol), followed by 2.55 g Dess Martin periodinane (6.0 mmol), at room temperature. The mixture was stirred 90 min at room temperature prior to being diluted with ethyl acetate (40 mL). The mixture was washed with 10% aqueous sodium thiosulfate, saturated aqueous sodium bicarbonate and brine. The organic layer was dried over sodium sulfate and then evaporated. The crude product (1.09 g, quantitative yield) was used immediately without further purification.

reactant | tert-butyl N-(tert-butoxycarbonyl)-L-homoserinate | 4.0 mmol, 1.10 g | C(C)(C)(C)OC(=O)N[C@@H](CCO)C(=O)OC(C)(C)C | C13H25NO5
reactant | pyridine | 12.0 mmol, 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | Dess Martin periodinane | 6.0 mmol, 2.55 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (2S)-2-[(tert-butoxycarbonyl)amino]-4-oxobutanoate | 1.09 g, quantitative yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC=O | C13H23NO5
